US09315458B2
B) 3-chloro-2-hydroxy-4-methoxybenzaldehyde
To a solution of 2-chloro-3-methoxyphenol (19.3 g) in 1,2-dichloroethane (150 mL) were added triethylamine (73.7 g), magnesium chloride (57.8 g) and paraformaldehyde (36.5 g), and the mixture was stirred at 70° C. for 4 hr under nitrogen atmosphere. The reaction mixture was poured into 1N hydrochloric acid, and the precipitate was removed by filtration, and washed with dichloromethane. The organic layer was washed with 1N hydrochloric acid and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (21.5 g).

reactant | 2-chloro-3-methoxyphenol | 19.3 g | ClC1=C(C=CC=C1OC)O | C7H7ClO2
reactant | magnesium chloride | 57.8 g | [Cl-].[Mg+2].[Cl-]
reactant | paraformaldehyde | 36.5 g | C=O | CH2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
solvent | triethylamine | 73.7 g | C(C)N(CC)CC | C6H15N
product | 3-chloro-2-hydroxy-4-methoxybenzaldehyde | 21.5 g | ClC=1C(=C(C=O)C=CC1OC)O | C8H7ClO3
